US06458780B1
1-(2-Methoxybenzoyloxy)ethyl(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-methylthio-imidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate (A Mixture of Diastereomers)
Sodium(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-methylthioimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate (170 mg) was dissolved in 2 ml of DMF. Triethylbenzylammonium chloride (193 mg) and 182 mg of 2-methoxybenzoyloxymethyl chloride were added to the solution in an argon atmosphere. The mixture was stirred under ice cooling for 2 hr and then stirred at room temperature for 5 hr. Ethyl acetate (30 ml) was added to the reaction solution. The mixture was washed twice with 20 ml of semisaturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered, and then concentrated to a volume of 5 ml under the reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=40:1) to give 131 mg of the title compound.

reactant | Sodium(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-methylthioimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 170 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SC)C(=O)[O-])C1=O.[Na+]
reactant | 2-methoxybenzoyloxymethyl chloride | 182 mg | COC1=C(C(=O)OCCl)C=CC=C1 | C9H9ClO3
reactant | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | Triethylbenzylammonium chloride | 193 mg | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 1-(2-Methoxybenzoyloxy)ethyl(1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-methylthio-imidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 131 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SC)C(=O)OC(C)OC(C3=C(C=CC=C3)OC)=O)C1=O | C26H27N3O7S2
